US07977481B2
A solution of propionyl chloride (4.85 uL, 0.055 mmol) in DCM (100 uL) was added dropwise to a DCM solution (400 uL) of [4-(5-aminothiophen-2-yl)-pyrimidin-2-yl]-m-tolyl-amine TFA salt (20 mg, 0.050 mmol), followed by addition of pyridine (8.9 uL, 0.11 mmol). After 16 hours, the reaction was diluted with DMSO and prep purified to afford N-[5-(2-m-tolylamino-pyrimidin-4-yl)-thiophene-2-yl]-propionamide (6.7 mg, 39.6%). The major impurity was the TFA amide. 1H NMR (500 MHz, DMSO-d6) δ 1.11 (t, J=7 Hz, 3H), 2.33 (s, 3H), 2.38 (q, J=7 Hz, 2H), 6.69 (d, J=4 Hz, 1H), 6.75 (d, J=8 Hz, 1H), 7.12 (t, J=8 Hz, 1H), 7.18 (d, J=5.5 Hz, 1H), 7.50 (d, J=8 Hz, 1H), 7.72 (d, J=4 Hz, 1H), 7.81 (s, 1H), 8.33 (d, J=5.5 Hz, 1H), 9.44 (s, 1H), 11.38 (s, 1H). MS: m/z 339 (M+H+).

reactant | propionyl chloride | 0.055 mmol, 4.85 uL | C(CC)(=O)Cl | C3H5ClO
reactant | [4-(5-aminothiophen-2-yl)-pyrimidin-2-yl]-m-tolyl-amine TFA salt | 0.050 mmol, 20 mg | OC(=O)C(F)(F)F.NC1=CC=C(S1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C
reactant | pyridine | 0.11 mmol, 8.9 uL | N1=CC=CC=C1 | C5H5N
solvent | DCM | 100 uL | C(Cl)Cl | CH2Cl2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | DCM | 400 uL | C(Cl)Cl | CH2Cl2
product | N-[5-(2-m-tolylamino-pyrimidin-4-yl)-thiophene-2-yl]-propionamide | 6.7 mg, 39.6% | C1(=CC(=CC=C1)NC1=NC=CC(=N1)C1=CC=C(S1)NC(CC)=O)C | C18H18N4OS
